US09029538B2
1-Ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid [4-(7-benzyloxy-6-methoxyquinolin-4-yloxy)-3-fluorophenyl]-amide was synthesized using 4-(7-benzyloxy-6-methoxyquinolin-4-yloxy)-3-fluorophenylamine and 3-(4-fluorophenyl)-1-ethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid by the method for example 1. mp=142-4° C.; LCMS m/z=651 (M+1); 1H NMR (DMSO) δ: 11.0 (s, 1H), 8.89 (s, 1H), 8.47 (d, 1H, J=5.3 Hz), 7.98, 8.02 (dd, 1H, J=2.3, 13 Hz), 7.50-7.54 (m, 5H), 7.41-7.46 (m, 5H), 7.33-7.38 (m, 3H), 6.48 (d, 1H, J=5 Hz), 5.31 (s, 2H), 4.90 (q, 2H, J=7 Hz), 3.95 (s, 3H), 1.29 (t, 3H, J=7 Hz).

reactant | 4-(7-benzyloxy-6-methoxyquinolin-4-yloxy)-3-fluorophenylamine | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)N)F)OC | C23H19FN2O3
reactant | 3-(4-fluorophenyl)-1-ethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | FC1=CC=C(C=C1)N1C(N(C=C(C1=O)C(=O)O)CC)=O | C13H11FN2O4
product | 1-Ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid [4-(7-benzyloxy-6-methoxyquinolin-4-yloxy)-3-fluorophenyl]-amide | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C(N(C1)CC)=O)C1=CC=C(C=C1)F)=O)F)OC | C36H28F2N4O6
